US06503907B2
To 2.75 g (9 mmol) 5-(5-Hydroxy-pentyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester in 100 ml CH2Cl2, 0.87 ml (11 mmol) methanesulfonyl chloride and 3.8 ml (27 mmol) triethyl amine were added at 0° C. The solution was concentrated in vacuo to yield crude 5-(5-Methanesulfonyloxy-pentyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as yellow viscous oil, MS: 384 (MH+). The crude material was dissolved in 5 ml DMF and 5 ml (50 mmol) N-allylmethylamine. The mixture was heated to 80° C. for 3 h, concentrated and the residue was dissolved in water and ether, 2N NaOH was added and the inorganic phase was extacted with ether. The combined organic phases were washed with water and dried over Na2SO4. Column chromatography on silica gel with CH2Cl2/MeOH 9:1 yielded 2.5 g (72%) 5-[5-(Allyl-methyl-amino)-pentyl]-2,3-dihydro-indole -1-carboxylic acid tert-butyl ester as colorless liquid, MS: 359 (MH+).

reactant | 5-(5-Hydroxy-pentyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 9 mmol, 2.75 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)CCCCCO | C18H27NO3
reactant | methanesulfonyl chloride | 11 mmol, 0.87 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethyl amine | 27 mmol, 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | N-allylmethylamine | 50 mmol, 5 ml | C(C=C)CN | C4H9N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-[5-(Allyl-methyl-amino)-pentyl]-2,3-dihydro-indole -1-carboxylic acid tert-butyl ester | 2.5 g, 72% | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)CCCCCN(C)CC=C | C22H34N2O2
